US05155249
c) 4-[1-Hydroxy-3-(2-hydroxy-5-trimethylsilylphenyl)-3-oxo-1-propenyl]benzoic Acid
To a solution of 148 mg (0.4 mmol) of methyl 4-[1-hydroxy-3(2-hydroxy-5-trimethylsilylphenyl)-3-oxo-1-propenyl]benzoate in 20 ml of ethanol was added 2 ml of 2N-sodium hydroxide solution at room temperature with stirring. The mixture was stirred at room temperature for 1 day and acidified with 10%-hydrochloric acid to pH 4. A deposited precipitation was extracted with AcOEt. The extract was washed with H2O and saturated aq.NaCl, dried over MgSO4, and evaporated. The residue was recrystallized from methanol to give 72 mg of yellow needles (yield 51%), m.p. 207°-209° C.

reactant | methyl 4-[1-hydroxy-3(2-hydroxy-5-trimethylsilylphenyl)-3-oxo-1-propenyl]benzoate | 0.4 mmol, 148 mg | OC(=CC(=O)C1=C(C=CC(=C1)[Si](C)(C)C)O)C1=CC=C(C(=O)OC)C=C1 | C20H22O5Si
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-[1-Hydroxy-3-(2-hydroxy-5-trimethylsilylphenyl)-3-oxo-1-propenyl]benzoic Acid | 72 mg, yield 51% | OC(=CC(=O)C1=C(C=CC(=C1)[Si](C)(C)C)O)C1=CC=C(C(=O)O)C=C1 | C19H20O5Si
